US07479488B2
69c 3-(4-benzyloxy-3,5-dimethyl-phenyl)-2-oxo-propionic acid
31.1 g (88.1 mmol) methyl 2-acetylamino-3-(4-benzyloxy-3,5-dimethyl-phenyl)-acrylate in 150 mL 1,4-dioxane were combined with 125 mL 4 M HCl, stirred for 7 h at reflux temperature and stirred overnight at RT. The precipitate was suction filtered, washed with water and dried at 45° C. in the vacuum drying cupboard.

reactant | methyl 2-acetylamino-3-(4-benzyloxy-3,5-dimethyl-phenyl)-acrylate | 88.1 mmol, 31.1 g | C(C)(=O)NC(C(=O)OC)=CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C | C21H23NO4
reactant | HCl | 4 M, 125 mL | Cl | ClH
reactant | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 3-(4-benzyloxy-3,5-dimethyl-phenyl)-2-oxo-propionic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)CC(C(=O)O)=O)C | C18H18O4
